US07585880B2
4-butyrylphenyl trifluoromethanesulfonate
To an ice-cooled solution of 1-(4-hydroxyphenyl)butan-1-one (15.0 g, 91.4 mmol) in pyridine (100 mL) was added dropwise trifluoromethanesulfonic acid anhydride (30.9 g, 110 mmol). The obtained mixture was stirred at room temperature for 3 hr, diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-40:60) to give the title compound (27.1 g, yield 100%) as a pale-yellow oil.

reactant | 1-(4-hydroxyphenyl)butan-1-one | 91.4 mmol, 15.0 g | OC1=CC=C(C=C1)C(CCC)=O | C10H12O2
reactant | trifluoromethanesulfonic acid anhydride | 110 mmol, 30.9 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-butyrylphenyl trifluoromethanesulfonate | 27.1 g, yield 100% | FC(S(=O)(=O)OC1=CC=C(C=C1)C(CCC)=O)(F)F | C11H11F3O4S
